US09029359B2
(R)—N-(1-(6-acetamidopyrimidin-4-yl)piperidin-3-yl)-2-(3,5-dichlorophenylamino)acetamide
The title compound of Example 141 was prepared in similar manner as described in Example 134 except the key intermediate (R)-tert-butyl 3-((R)-2-(3-chloro-5-fluorophenylamino)-2-cyclopropylacetamido)piperidine-1-carboxylate was replaced with (R)-tert-butyl 3-(2-(3,5-dichlorophenylamino)acetamido)piperidine-1-carboxylate and the 4-amino-6-chloropyrimidine-5-carbonitrile was substituted for N-(6-chloropyrimidin-4-yl)acetamide. 1H NMR (400 MHz, DMSO-d6) δ 10.32 (s, 1H), 8.17 (s, 1H), 7.96 (d, J=7.78 Hz, 1H), 6.56 (t, J=1.88 Hz, 1H), 6.47 (d, J=1.76 Hz, 2H), 4.02 (br. s., 1H), 3.79 (br. s., 1H), 3.61 (d, J=9.29 Hz, 3H), 2.84-3.17 (m, 2H), 2.00 (s, 3H), 1.75 (br. s., 2H), 1.33-1.57 (m, 2H). EIMS (m/z): calcd. for C19H22Cl2N6O2 (M+1H) 437. found 437.

reactant | (R)-tert-butyl 3-((R)-2-(3-chloro-5-fluorophenylamino)-2-cyclopropylacetamido)piperidine-1-carboxylate | ClC=1C=C(C=C(C1)F)N[C@@H](C(=O)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1CC1 | C21H29ClFN3O3
reactant | (R)-tert-butyl 3-(2-(3,5-dichlorophenylamino)acetamido)piperidine-1-carboxylate | ClC=1C=C(C=C(C1)Cl)NCC(=O)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C18H25Cl2N3O3
reactant | 4-amino-6-chloropyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)Cl | C5H3ClN4
reactant | N-(6-chloropyrimidin-4-yl)acetamide | ClC1=CC(=NC=N1)NC(C)=O | C6H6ClN3O
product | (R)—N-(1-(6-acetamidopyrimidin-4-yl)piperidin-3-yl)-2-(3,5-dichlorophenylamino)acetamide | C(C)(=O)NC1=CC(=NC=N1)N1C[C@@H](CCC1)NC(CNC1=CC(=CC(=C1)Cl)Cl)=O | C19H22Cl2N6O2
